US08030354B2
4-Bromo-3-(tetrahydro-2H-pyran-2-yloxy)benzoic acid 4-bromo-3-(tetrahydro-2H-pyran-2-yloxy)benzoic acid (26.1).
To solution of 4-bromo-3-hydroxybenzoic acid (available from Combi-Blocks Inc.) (2.50 g, 11.5 mmol) in DCM (100 mL) at 23° C., was added 3,4-dihydro-2H-pyran (available from Aldrich) (2.10 mL, 23.0 mmol) followed by PPTS (0.289 g, 1.15 mmol). The reaction gave a mixture of bis THP protected compound and 26.1.

reactant | 4-bromo-3-hydroxybenzoic acid | 11.5 mmol, 2.50 g | BrC1=C(C=C(C(=O)O)C=C1)O | C7H5BrO3
reactant | 3,4-dihydro-2H-pyran | 23.0 mmol, 2.10 mL | O1CCCC=C1 | C5H8O
reactant | PPTS | 1.15 mmol, 0.289 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-3-(tetrahydro-2H-pyran-2-yloxy)benzoic acid 4-bromo-3-(tetrahydro-2H-pyran-2-yloxy)benzoic acid | BrC1=C(C=C(C(=O)O)C=C1)OC1OCCCC1.BrC1=C(C=C(C(=O)O)C=C1)OC1OCCCC1 | 2C12H13BrO4
